US09216911B2
N-(2-methylcyclohexyl)pyrrolidine as synthesized in Example 3 above, was quaternized with methyl iodide using the procedure described in example 4 with the exception of using N-(2-methylcyclohexyl)pyrrolidine in place of N-cyclohexylpyrrolidine. The quaternization procedure afforded the desired N-methyl-N-(2-methylcyclohexyl)pyrrolidinium iodide in 94% yield as an off-white solid. This N-methyl-N-(2-methylcyclohexyl)pyrrolidinium iodide was ion-exchanged with BIO-RAD AGR 1-X* resin as described in example 4 above. The ion-exchange procedure afforded the hydroxide solution of N-methyl-N-(2-methylcyclohexyl)pyrrolidinium cation in 91% yield as determined by titration analysis on a small aliquot.

reactant | N-(2-methylcyclohexyl)pyrrolidine | CC1C(CCCC1)N1CCCC1 | C11H21N
reactant | methyl iodide | CI | CH3I
product | N-methyl-N-(2-methylcyclohexyl)pyrrolidinium iodide | 94% yield | [I-].C[N+]1(CCCC1)C1C(CCCC1)C | InChI=1S/C12H24N.HI/c1-11-7-3-4-8-12(11)13(2)9-5-6-10-13;/h11-12H,3-10H2,1-2H3;1H/q+1;/p-1
